US04481360
Using the method of Example 1, Part A of U.S. Pat. No. 4,338,453, 2-fluorophenyl isothiocyanate and acethydrazide are reacted to produce 4-(2-fluorophenyl)-5-methyl-4H-1,2,4-triazole-3-thiol (mp 236°-237° C., C:H:N:S:F ratio 51.69:3.86:20.10:15.84:9.10) which is converted to 4-(2-fluorophenyl)-3-methyl-4H-1,2,4-triazole (mp 119°-120° C., C:H:N:F ratio 61.28:4.83:23.58:10.42).

reactant | 2-fluorophenyl isothiocyanate | FC1=C(C=CC=C1)N=C=S | C7H4FNS
reactant | acethydrazide | C(C)(=O)NN | C2H6N2O
product | 4-(2-fluorophenyl)-5-methyl-4H-1,2,4-triazole-3-thiol | FC1=C(C=CC=C1)N1C(=NN=C1C)S | C9H8FN3S
